US03950383
3.0 g of 2-(methylamino-acetamido)-5-chloro-benzophenone were dissolved in 30 mls. of anhydrous alcohol and then mixed with 2.0 g of freshly distilled acrylonitrile. The mixture was stirred for 2 hours at room temperature and then heated under reflux for a further 8 hours. After being allowed to stand overnight at room temperature a further 2.0 g of freshly distilled acrylonitrile was added and the mixture heated under reflux with stirring for a further 4 hours. At this point a sample showed in a thin-layer chromatogram a uniform point which differed from that of the initial product. The turbid solution was filtered and concentrated in vacuo (approx. 0.1 mm Hg), 3.0 g of a colourless oil being obtained. This residue was dissolved in anhydrous diethyl ether. After passing dry hydrogen chloride into this solution, 3.6 g of 2-(5-cyano-3-methyl-3-aza-pentanamido)-5-chloro-benzophenone hydrochloride were obtained, corresponding to 92% of theory. The product had a melting point of 166°-168°. The RF value in a thin-layer chromatogram in methanol as flow medium was 0.85.

reactant | 2-(methylamino-acetamido)-5-chloro-benzophenone | 3.0 g | CNCC(=O)NC1=C(C(=O)C2=CC=CC=C2)C=C(C=C1)Cl | C16H15ClN2O2
reactant | acrylonitrile | C(C=C)#N | C3H3N
reactant | hydrogen chloride | Cl | ClH
solvent | diethyl ether | C(C)OCC | C4H10O
product | 2-(5-cyano-3-methyl-3-aza-pentanamido)-5-chloro-benzophenone hydrochloride | 3.6 g | Cl.C(#N)CCN(CC(=O)NC1=C(C(=O)C2=CC=CC=C2)C=C(C=C1)Cl)C | InChI=1S/C19H18ClN3O2.ClH/c1-23(11-5-10-21)13-18(24)22-17-9-8-15(20)12-16(17)19(25)14-6-3-2-4-7-14;/h2-4,6-9,12H,5,11,13H2,1H3,(H,22,24);1H
